US07704995B2
1,1-dimethylethyl (3S)-3-[({3-amino-6-[3-(amino-methyl)phenyl]pyrazin-2-yl}carbonyl)amino]piperidine-1-carboxylate (150.0 mg, 0.35 mmol) and 4-fluorobenzoic acid (50.0 mg, 0.36 mmol) was dissolved in DMF (5 mL) followed by the addition of HOBT (95.5 mg, 0.70 mmol) and EDCI (135.4 mg, 0.70 mmol). It was stirred at room temperature overnight. The reaction mixture was poured into water (20 mL), and extracted with ethyl acetate (2×30 mL) then dried over anhydrous sodium sulfate and filteration, concentration and purified by column chromatography (50% Ethylacetae/hexanes) and subsequently it was treated with 4.0 M HCl in dioxane (20 mL) to give compound 3-Amino-6-[3-({[(4-fluorophenyl)carbonyl]amino}methyl)phenyl]-N-[(3S)-piperidin-3-yl]pyrazine-2-carboxamide: 70.0 mg (46.6% yield). 1H NMR (400 MHz, d4-MeOH): δ 8.62 (s, 1H), 8.16 (s, 1H), 7.98 (m, 3H), 7.48 (m, 2H), 7.20 (m, 3H), 4.67(s, 2H), 4.38 (m, 1H), 3.45 (m, 1H), 3.38 (m, 1H), 3.18 (m, 1H), 3.00 (m, 1H), 2.18 (m, 2H), 1.80 (m, 2H); MS (EI) for C24H25N6O2F: 449.32 (MH+).

reactant | 1,1-dimethylethyl (3S)-3-[({3-amino-6-[3-(amino-methyl)phenyl]pyrazin-2-yl}carbonyl)amino]piperidine-1-carboxylate | 0.35 mmol, 150.0 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CN)C(=O)N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H30N6O3
reactant | 4-fluorobenzoic acid | 0.36 mmol, 50.0 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HOBT | 0.70 mmol, 95.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.70 mmol, 135.4 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 3-Amino-6-[3-({[(4-fluorophenyl)carbonyl]amino}methyl)phenyl]-N-[(3S)-piperidin-3-yl]pyrazine-2-carboxamide | 46.6% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CNC(=O)C1=CC=C(C=C1)F)C(=O)N[C@@H]1CNCCC1 | C24H25FN6O2
